US05061706
c. 1-Hydroxy-7-sulfamoylquinoxaline-2,3(1H,4H)-dione
A suspension of 4-ethoxalylamino-3-nitrobenzenesulfonamide (1.59 g, 5 mmol) in 300 ml of 96% ethanol was hydrogenated at atmospheric pressure and room temperature for 30 min. in the presence of 50 mg of 5% platinum on carbon. The catalyst was filtered off and the filtrate was evaporated to dryness. The residue was washed with ethanol and dissolved in 25 ml of saturated aqueous ammonium hydroxide. An undissolved orange residue was removed by filtration, and most of the ammonia was removed from the filtrate under reduced pressure. After treatment with decolourising carbon the filtrate was acidified with conc. hydrochloric acid to give 0.76 g (59%) of the title compound as an off-white precipitate. M.p.>250° C. decomp. (DSC); NMR (DMSO-d6): 7.07-7.93 (m, 3H, ArH), 7.33 (broad s, 2H, NH2), ca. 11.9 (very broad s, 1H, NH or OH), 12.3 (broad s, 1H, OH or NH); IR (KBr): 3300-2100, 1690 cm -1 ; MS (m/e): 257 (10%, M+).

reactant | 4-ethoxalylamino-3-nitrobenzenesulfonamide | 5 mmol, 1.59 g | C(=O)(C(=O)OCC)NC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C10H11N3O7S
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | platinum on carbon | 50 mg | [Pt] | Pt
product | 1-Hydroxy-7-sulfamoylquinoxaline-2,3(1H,4H)-dione | 0.76 g, 59% | ON1C(C(NC2=CC=C(C=C12)S(N)(=O)=O)=O)=O | C8H7N3O5S
